US08071584B2
1-{[(1,1-Dimethylethyl)oxy]carbonyl}-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid
To a stirred solution of 1,1-dimethylethyl 6-fluoro-2,3-dihydro-1H-indole-1-carboxylate (8.7 g, 0.037 mol) in Et2O (150 mL) at −78° C. was added TMEDA (7.2 mL, 0.048 mol) and a solution of 1M sec-BuLi (44 mL, 0.044 mol) dropwise. The reaction mixture was stirred for 1 h at −78° C. and then poured onto crushed CO2 (250 mL). The mixture was allowed to warm to room temperature overnight. The suspension was diluted with water (200 mL) and diethyl ether (50 mL), and the layers were separated. The aqueous fraction was acidified with 1M HCl and extracted with diethyl ether (3×100 mL). The combined organic layers were washed with brine (1×50 mL), dried (Na2SO4), and concentrated under reduced pressure giving 8.0 g (77%) of the title compound.

reactant | 1,1-dimethylethyl 6-fluoro-2,3-dihydro-1H-indole-1-carboxylate | 0.037 mol, 8.7 g | FC1=CC=C2CCN(C2=C1)C(=O)OC(C)(C)C | C13H16FNO2
reactant | TMEDA | 0.048 mol, 7.2 mL | CN(C)CCN(C)C | C6H16N2
reactant | sec-BuLi | 0.044 mol, 1M, 44 mL | [Li]C(C)CC
reactant | CO2 | 250 mL | C(=O)=O | CO2
solvent | Et2O | 150 mL | CCOCC | C4H10O
solvent | water | 200 mL | O | H2O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1-{[(1,1-Dimethylethyl)oxy]carbonyl}-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid | 8.0 g, 77% | CC(C)(C)OC(=O)N1CCC2=CC=C(C(=C12)C(=O)O)F | C14H16FNO4
